* MOSFET Noise Analysis Simulation
.option temp=27 tnom=27
.option gmin=1e-15
.option reltol=1e-8
.option abstol=1e-12
.option chgtol=1e-15
.option method=gear
.option TEMP=27
.option TNOM=27
.option TEMPSCALE=1.0

* Include FreePDK45 model
.include '/home/duhaochen/pipeline_sky130_mos/benchmark-inputs/0ef9027c8157d4738d9fd108e20e1c2d/ngspice.lib'

* ----------------------------------------------------------
* Thermal Noise Analysis Circuit - Common source amplifier configuration
* ----------------------------------------------------------

* Supply voltage
Vdd_noise vdd_noise 0 DC 1.2

* Biasing setup for thermal noise
Vin_noise in_noise 0 DC 0.6 AC 1
Rb_noise in_noise gate_noise 1k       ; Bias resistor (blocks DC)
Cb_noise in_noise gate_noise 1u       ; Coupling capacitor (passes AC)
Rs_noise source_noise 0 100           ; Source resistor for stability

* Drain and gate bias
Rd_noise vdd_noise drain_noise 10k    ; Drain resistor - load
Vgs_noise gate_noise source_noise DC 0 ; Initial gate-source voltage (will be altered)
Vds_noise drain_noise source_noise DC 0 ; Initial drain-source voltage (will be altered)
Vbulk_noise bulk_noise 0 DC 0         ; Bulk/substrate connection

* ----------------------------------------------------------
* MOSFET device under test
* ----------------------------------------------------------
M_noise drain_noise gate_noise source_noise bulk_noise __benchmark_selected_nmos L=5.0250000000000006e-07 W=9.9975000000000004e-06

* Flicker Noise Source Circuit - Separate circuit for flicker noise characterization
* Voltage and current sources for AC analysis
Vin_f flicker_in 0 DC 0 AC 1
* Input stage for analysis
Rin_f flicker_in flicker_gate 1k
Vbias_f flicker_vdd 0 DC 1.2
Vgs_flicker flicker_gate_bias 0 DC 0.6

* ----------------------------------------------------------
* MOSFET for flicker noise analysis
* ----------------------------------------------------------
M_flicker flicker_drain flicker_gate flicker_source flicker_bulk __benchmark_selected_nmos L=5.0250000000000006e-07 W=9.9975000000000004e-06

Vgs_inp_f flicker_gate flicker_gate_bias DC 0
Rout_f flicker_drain flicker_vdd 10k
Vbulk_f flicker_bulk 0 DC 0
Vsrc_f flicker_source 0 DC 0

* Shot Noise Test Circuit - Configured for shot noise observation
Vdd_shot shot_vdd 0 DC 1.2 AC 1
Vgs_shot shot_gate 0 DC 0.9
Rload_shot shot_vdd shot_drain 10k

* ----------------------------------------------------------
* MOSFET for shot noise analysis
* ----------------------------------------------------------
M_shot shot_drain shot_gate shot_source shot_bulk __benchmark_selected_nmos L=5.0250000000000006e-07 W=9.9975000000000004e-06

Vbulk_shot shot_bulk 0 DC 0
Vsrc_shot shot_source 0 DC 0

* Control block
.control
set filetype=ascii
set wr_vecnames
set wr_singlescale
set wr_singleprecision
set wr_formatted

echo "Starting noise analysis simulations"

* Thermal Noise Analysis
echo "Thermal Noise Analysis"
* Setup bias conditions for thermal noise analysis

* First bias point (0.3, 0.3)
alter Vgs_noise = 0.3
alter Vds_noise = 0.3
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise1
let thermal_noise = inoise_spectrum
let freq = frequency
write ./thermal_noise_vgs0.3_vds0.3.txt freq thermal_noise

* Second bias point (0.3, 0.6)
alter Vgs_noise = 0.3
alter Vds_noise = 0.6
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise3
let thermal_noise = inoise_spectrum
let freq = frequency
write ./thermal_noise_vgs0.3_vds0.6.txt freq thermal_noise

* Third bias point (0.3, 0.9)
alter Vgs_noise = 0.3
alter Vds_noise = 0.9
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise5
let thermal_noise = inoise_spectrum
let freq = frequency
write ./thermal_noise_vgs0.3_vds0.9.txt freq thermal_noise

* Fourth bias point (0.3, 1.2)
alter Vgs_noise = 0.3
alter Vds_noise = 1.2
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise7
let thermal_noise = inoise_spectrum
let freq = frequency
write ./thermal_noise_vgs0.3_vds1.2.txt freq thermal_noise

* Fifth bias point (0.6, 0.3)
alter Vgs_noise = 0.6
alter Vds_noise = 0.3
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise9
let thermal_noise = inoise_spectrum
let freq = frequency
write ./thermal_noise_vgs0.6_vds0.3.txt freq thermal_noise

* Sixth bias point (0.6, 0.6)
alter Vgs_noise = 0.6
alter Vds_noise = 0.6
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise11
let thermal_noise = inoise_spectrum
let freq = frequency
write ./thermal_noise_vgs0.6_vds0.6.txt freq thermal_noise

* Flicker (1/f) Noise Analysis
echo "Flicker (1/f) Noise Analysis"
* Set bias for flicker noise analysis (typically more visible at lower frequencies)
alter Vgs_flicker = 0.6
alter Vbias_f = 1.2

* Run noise analysis with focus on lower frequencies where flicker noise dominates
noise v(flicker_drain) Vin_f dec 20 0.1 1MEG
setplot noise13
let flicker_noise = inoise_spectrum
let freq = frequency
write ./flicker_noise.txt freq flicker_noise

* Shot Noise Analysis
echo "Shot Noise Analysis"
* Set bias for shot noise observation
alter Vgs_shot = 0.9
* Run noise analysis - Ensure AC is set correctly on Vdd_shot
noise v(shot_drain) Vdd_shot dec 20 1 1G
setplot noise15
let shot_noise = inoise_spectrum
let freq = frequency
write ./shot_noise.txt freq shot_noise

* Temperature-Dependent Noise Analysis
echo "Temperature-Dependent Noise Analysis"
* Run noise analysis at different temperatures

* First temperature -40°C
option temp = -40
* Set consistent bias point for temperature dependency analysis
alter Vgs_noise = 0.6
alter Vds_noise = 0.6
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise17
let temp_noise = inoise_spectrum
let freq = frequency
write ./noise_temp-40.txt freq temp_noise

* Second temperature 0°C
option temp = 0
* Set consistent bias point for temperature dependency analysis
alter Vgs_noise = 0.6
alter Vds_noise = 0.6
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise19
let temp_noise = inoise_spectrum
let freq = frequency
write ./noise_temp0.txt freq temp_noise

* Third temperature 27°C
option temp = 27
* Set consistent bias point for temperature dependency analysis
alter Vgs_noise = 0.6
alter Vds_noise = 0.6
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise21
let temp_noise = inoise_spectrum
let freq = frequency
write ./noise_temp27.txt freq temp_noise

* Fourth temperature 50°C
option temp = 50
* Set consistent bias point for temperature dependency analysis
alter Vgs_noise = 0.6
alter Vds_noise = 0.6
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise23
let temp_noise = inoise_spectrum
let freq = frequency
write ./noise_temp50.txt freq temp_noise

* Fifth temperature 100°C
option temp = 100
* Set consistent bias point for temperature dependency analysis
alter Vgs_noise = 0.6
alter Vds_noise = 0.6
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise25
let temp_noise = inoise_spectrum
let freq = frequency
write ./noise_temp100.txt freq temp_noise

* Sixth temperature 150°C
option temp = 150
* Set consistent bias point for temperature dependency analysis
alter Vgs_noise = 0.6
alter Vds_noise = 0.6
noise v(drain_noise) Vin_noise dec 20 1 1G
setplot noise27
let temp_noise = inoise_spectrum
let freq = frequency
write ./noise_temp150.txt freq temp_noise

echo "Noise analysis simulations completed"
quit
.endc

.end
